US03972880
2,2-Dimethyl-4-piperidinobutyric acid hydrochloride is reacted with 1,3-dihydro-4,4-dimethyl-7-(3-methyl-2-octyl)-9-hydroxy-4H-thieno[3,4-c][1]benzopyran in methylene chloride in the presence of dicyclohexylcarbodiimide to produce 1,3-dihydro-4,4-dimethyl-7-(3-methyl-2-octyl)-9[2,2-dimethyl-4-(piperidino)butyryloxy]-4H-thieno[3,4-c][1] benzopyran hydrochloride.

reactant | 2,2-Dimethyl-4-piperidinobutyric acid hydrochloride | Cl.CC(C(=O)O)(CCN1CCCCC1)C
reactant | 1,3-dihydro-4,4-dimethyl-7-(3-methyl-2-octyl)-9-hydroxy-4H-thieno[3,4-c][1]benzopyran | CC1(OC2=C(C3=C1CSC3)C(=CC(=C2)C(C)C(CCCCC)C)O)C | C22H32O2S
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1,3-dihydro-4,4-dimethyl-7-(3-methyl-2-octyl)-9[2,2-dimethyl-4-(piperidino)butyryloxy]-4H-thieno[3,4-c][1] benzopyran hydrochloride | Cl.CC1(OC2=C(C3=C1CSC3)C(=CC(=C2)C(C)C(CCCCC)C)OC(C(CCN2CCCCC2)(C)C)=O)C | InChI=1S/C33H51NO3S.ClH/c1-8-9-11-14-23(2)24(3)25-19-28(30-26-21-38-22-27(26)33(6,7)37-29(30)20-25)36-31(35)32(4,5)15-18-34-16-12-10-13-17-34;/h19-20,23-24H,8-18,21-22H2,1-7H3;1H
